* Z:\mnt\design.r\spice\examples\ADP2503-5.0.asc
L1 N001 N002 1.5µ
C1 OUT 0 10µ
V1 IN 0 3.3
Rload OUT 0 50
XU1 N001 N002 OUT IN IN 0 OUT NC_01 ADP2503_4
.tran 400u startup
* PSM and forced PWM modes are modelled\nClock Sync is not modelled
.lib ADP2503_4.sub
.backanno
.end
